US04125615
2-[4-(p-Aminobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid:-
A solution of 3.40 g of 2-[4-(p-nitrobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid in 200 ml of acetic acid was hydrogenated over 0.55 g of 5% palladium-on-charcoal catalyst at room temperature until 3 mole equivalents of hydrogen were absorbed. The catalyst was removed by filtration and the filtrate was concentrated to dryness under reduced pressure. To the residue was added 30 ml of water and the resulting solution was neutralized with a saturated sodium bicarbonate solution. The crystalline precipitate was collected by filtration and dissolved with warming in 100 ml of ethanol. After removal of the insoluble material by filtration, the filtrate was kept under cooling to give the crude precipitated product (1.80 g), which was dissolved in a minimum amount of chloroform and chromatographed on 14 g of silica gel, using chloroform-methanol (a 50:1 ratio by volume) as eluent. Fractions containing the desired product were pooled and concentrated to dryness. The resulting solid was recrystallized from ethanol to give the pure product, m.p. 198°-201° C.

reactant | 2-[4-(p-nitrobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 3.40 g | [N+](=O)([O-])C1=CC=C(CN2CCN(CC2)C=2N=CC3=C(N2)N(C=C(C3=O)C(=O)O)CC)C=C1 | C21H22N6O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 0.55 g | [Pd] | Pd
product | 2-[4-(p-Aminobenzyl)-1-piperazinyl]-8-ethyl-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | NC1=CC=C(CN2CCN(CC2)C=2N=CC3=C(N2)N(C=C(C3=O)C(=O)O)CC)C=C1 | C21H24N6O3
